US05461158
4-(1-allylthio-1-methylethyl)-2-allylthiomethyl-4-butanolide
To a solution of 4-(1-mercapto-1-methylethyl)-2-mercaptomethyl-4-butanolide (0.24 g) in methylene chloride (3 ml), allyl bromide (1.0 ml) and N,N-(diisopropyl)ethylamine (1.0 ml) were added under nitrogen atmosphere. The mixture was stirred overnight at room temperature. The mixture was diluted with ether (50 ml) and washed with 2N hydrochloric acid and saturated sodium chloride solution. The organic layer was dried over anhydrous sodium sulfate and concentrated in vacuo. The oily residue was purified by silica gel column chromatography to give 0.142 g (43%) of cis-form (compound No.12-1) and 0.170 g (51%) of transform (compound No.12-2) of the titled compound.

reactant | 4-(1-mercapto-1-methylethyl)-2-mercaptomethyl-4-butanolide | 0.24 g | SC(C)(C)C1CC(C(=O)O1)CS | C8H14O2S2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | allyl bromide | 1.0 ml | C(C=C)Br | C3H5Br
solvent | ether | 50 ml | CCOCC | C4H10O
product | 4-(1-allylthio-1-methylethyl)-2-allylthiomethyl-4-butanolide | C(C=C)SC(C)(C)C1CC(C(=O)O1)CSCC=C | C14H22O2S2
